US07078527B2
Preparation of 2-[(3,4,4-trifluoro-3-butenyl)sulphanyl]-1,3-thiazole (process (c) using chloroacetaldehyde diethyl acetal)
3 g (14.9 mmol) of 3,4,4-trifluoro-3-butenyl dithiocarbamate in 15 ml of glacial acetic acid are admixed with 2.3 g (15.1 mmol) of chloroacetaldehyde diethyl acetal and 40 mg of p-toluenesulphonic acid monohydrate. The mixture is stirred at 95° C. for 1.5 h and, after cooling to room temperature, is then concentrated by evaporation under reduced pressure. The evaporation residue is taken up in dichloromethane and washed with 1 N sodium hydroxide solution, and the organic phase is removed, dried over Na2SO4 and concentrated by evaporation under reduced pressure. 2.8 g (81.5% of theory; purity by GC/MS: 97.7 area %) of an oil are obtained.

reactant | 3,4,4-trifluoro-3-butenyl dithiocarbamate | 14.9 mmol, 3 g | C(N)(SCCC(=C(F)F)F)=S | C5H6F3NS2
reactant | chloroacetaldehyde diethyl acetal | 15.1 mmol, 2.3 g | C(C)OC(CCl)OCC | C6H13ClO2
reactant | p-toluenesulphonic acid monohydrate | 40 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-[(3,4,4-trifluoro-3-butenyl)sulphanyl]-1,3-thiazole | FC(CCSC=1SC=CN1)=C(F)F | C7H6F3NS2
